US07417028B2
1. ((S)-tert-Butyl 2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(6-(2-ethylphenyl)pyridine-3-yl)propanoate
To a stirred slurry of 1.75 g (3.35 mmol) of (S)-tert-butyl 2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(6-bromo-pyridin-3-yl)propanoate and 1.005 g (6.70 mmol, 2 eq.) of 2-ethylphenylboronic acid in 50 mL of 1:1 isopropanol/toluene was added 25.0 mL of 2 M aqueous sodium carbonate solution. The reaction mixture was purged twice with argon and evacuated and then 124 mg (0.167 mmol, 0.05 equivalents) of bis(tricyclohexylphosphine)palladium (II) chloride was added and the mixture was again purged with argon and evacuated. The rapidly stirred mixture was heated at 80° C. under argon. After 20 h, the reaction mixture was cooled to room temperature and partially concentrated to remove isopropanol. The residue was partitioned between ethyl acetate and water and the aqueous phase was extracted once more with ethyl acetate. The organic extracts were combined, dried over magnesium sulfate, filtered and concentrated to give a brown oil. Purification by chromatography on silica gel using ethyl acetate/dichloromethane (1:9) as eluant (5×15 cm column), gave the desired compound as a colorless oil, 1.25 g, 77% yield.

reactant | (S)-tert-butyl 2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(6-bromo-pyridin-3-yl)propanoate | 3.35 mmol, 1.75 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)OC(C)(C)C)CC=1C=NC(=CC1)Br | C27H27BrN2O4
reactant | 2-ethylphenylboronic acid | 6.70 mmol, 1.005 g, 2 eq. | C(C)C1=C(C=CC=C1)B(O)O | C8H11BO2
reactant | sodium carbonate | 2 M, 25.0 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | isopropanol toluene | 50 mL | C(C)(C)O.C1(=CC=CC=C1)C
product | (S)-tert-Butyl 2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-(6-(2-ethylphenyl)pyridine-3-yl)propanoate | 77% yield | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)OC(C)(C)C)CC=1C=NC(=CC1)C1=C(C=CC=C1)CC | C35H36N2O4
